US08563717B2
Intermediate 64: Phenylmethyl 3-(5-hydroxypentyl)-1-piperidinecarboxylate
To a solution of 5-(3-piperidinyl)-1-pentanol acetate (7.37 g, 31.9 mmol) in THF (50 ml) was added a solution of potassium hydroxide (5.36 g, 96 mmol) in water (30 ml) and the mixture was stirred in an ice-water bath. To this was added a solution of benzyl chloroformate (5.00 ml, 35.0 mmol) in THF (25 mL) dropwise over a period of 40 mins. After stirring in the cold bath for 30 mins., the mixture was allowed to warm to rt and stirred for 5 hours. The organic solvent was removed by evaporation in vacuo and the aqueous phase was diluted further with water (75 ml) and extracted with EtOAc (3×100 ml). The combined organic extracts was washed with saturated NaCl solution (100 ml), separated, dried (Na2SO4), filtered the solvent evaporated in vacuo and the residue was purified by column chromatography. The sample was loaded in dichloromethane and purified on silica (Si) 2×100 g cartridges using a gradient of 0-100% ethyl acetate in cyclohexane over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a colourless oil (6.50 g).

reactant | 5-(3-piperidinyl)-1-pentanol acetate | 31.9 mmol, 7.37 g | C(C)(=O)OCCCCCC1CNCCC1 | C12H23NO2
reactant | potassium hydroxide | 96 mmol, 5.36 g | [OH-].[K+]
reactant | benzyl chloroformate | 35.0 mmol, 5.00 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Phenylmethyl 3-(5-hydroxypentyl)-1-piperidinecarboxylate | 6.50 g | OCCCCCC1CN(CCC1)C(=O)OCC1=CC=CC=C1 | C18H27NO3
